US05969062
2.00 g (24.67 mmol) of lithium methoxyethylamide were added a little at a time at 0° C. to a solution of 5.30 g (24.70 mmol) of (chlorodimethylsilyl)tetramethylcyclopentadiene in 40 ml of dry pentane and the mixture was stirred for 16 hours at room temperature. The pale yellow reaction solution was filtered to remove the precipitated lithium chloride and the pentane was removed under an oil pump vacuum. Subsequent distillation of the remaining oil gave [(methoxyethylamino)dimethylsilyl]tetramethylcyclopentadiene in the form of a hydrolysis-sensitive, greenish yellow oil. Yield: 5.26 g (76%); boiling point: 70-77° C./10-2 torr.

reactant | lithium methoxyethylamide | 24.67 mmol, 2.00 g | COCC[NH-].[Li+]
reactant | (chlorodimethylsilyl)tetramethylcyclopentadiene | 24.70 mmol, 5.30 g | Cl[Si](C)(C)C1C(=C(C(=C1C)C)C)C | C11H19ClSi
solvent | pentane | 40 ml | CCCCC | C5H12
product | [(methoxyethylamino)dimethylsilyl]tetramethylcyclopentadiene | COCCN[Si](C)(C)C1C(=C(C(=C1C)C)C)C | C14H27NOSi
